US06825191B2
Synthesis of 6-chloro-4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-7-methyl-1,3,4,5-tetrahydro-benzo[e][1,4]-diazepin-2-on
140 mg (0.37 mmol) of ethyl [(2-amino-6-chlorobenzyl)-(4-chlorobenzoyl)amino]acetate and 89 mg (0.44 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde were dissolved in 5 ml of dichloromethane. 0.042 ml (0.74 mmol) of acetic acid was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 195 mg (0.93 mmol) of sodium triacetoxyborohydride was added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 5 ml of 1 N sodium hydroxide and 5 ml of ethanol, and they were stirred at room temperature for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 5 ml of dichloromethane. 74 mg (0.44 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.1 ml (0.74 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was dissolved in 5 ml of 4N solution of hydrogen chloride in dioxane. The obtained solution was stirred at room temperature for 3 hours. The solvent was evaporated and the obtained crude product was treated in the same manner as in Step 3 in Example 1 to obtain the title compound.

reactant | ethyl [(2-amino-6-chlorobenzyl)-(4-chlorobenzoyl)amino]acetate | 0.37 mmol, 140 mg | NC1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C(=CC=C1)Cl | C18H18Cl2N2O3
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 0.44 mmol, 89 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 0.74 mmol, 0.042 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.93 mmol, 195 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.74 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-7-methyl-1,3,4,5-tetrahydro-benzo[e][1,4]-diazepin-2-on | ClC1=C(C=CC=2N(C(CN(CC21)C(C2=CC=C(C=C2)Cl)=O)=O)CC2=CC=C(C=C2)C(=O)N2CC=CC2)C | C29H25Cl2N3O3
